US05409943
(a) N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (1.19 g, 0.0056 mol), 4-chlorophenyl isothiocyanate (1.15 g, 0.0068 mol) and toluene (10 ml) was refluxed for 2.5 hours, then cooled and treated with ether to induce crystallisation of the product. Yield 1.63 g (77%), m.p. 181°-183 ° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 0.0056 mol, 1.19 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | 4-chlorophenyl isothiocyanate | 0.0068 mol, 1.15 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | CC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=CC=C1 | C20H18ClN3OS
